US08669361B2
Reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and piperidine gave 1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidine as a white solid (232 mg, 89%). 1H NMR (400 MHz, CDCl3) δ 8.00 (s, 1H), 3.74 (s, 3H), 3.18-3.12 (m, 4H), 1.74-1.63 (m, 6H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidine | 232 mg, 89% | CN1N=CC(=C1N1CCCCC1)[N+](=O)[O-] | C9H14N4O2
